US08895733B2
2-N-Methyl-2-N-phenyl-6-(5-{5-[1-(pyrrolidin-1-yl)ethyl]pyridin-2-yl}-1,2,4-oxadiazol-3-yl)-1,3,5-triazine-2,4-diamine
To a solution of 1-[6-(3-{4-amino-6-[methyl(phenyl)amino]-1,3,5-triazin-2-yl}-1,2,4-oxadiazol-5-yl)pyridin-3-yl]ethan-1-one (prepared in an analogous manner to Example 296, 100 mg, 257 μmol) and pyrrolidine (53 μL, 643 μmol) in anhydrous THF (5 mL) at 0 C under nitrogen was added titanium isopropoxide (183 mg, 643 μmol) drop-wise. The reaction mixture was allowed to warm to room temperature and stirred overnight. The reaction mixture was then cooled to 0 C and sodium borohydride (29 mg, 771 μmol) was added. The reaction mixture was stirred at room temperature for 3 h and then was quenched with water (10 mL) and extracted into EtOAc (3×25 mL). Combined organics were dried over magnesium sulfate, evaporated and the crude product was purified by silica chromatography (2% MeOH in DCM) to afford the title compound as a beige solid (13 mg, 12%).

reactant | 1-[6-(3-{4-amino-6-[methyl(phenyl)amino]-1,3,5-triazin-2-yl}-1,2,4-oxadiazol-5-yl)pyridin-3-yl]ethan-1-one | NC1=NC(=NC(=N1)N(C1=CC=CC=C1)C)C1=NOC(=N1)C1=CC=C(C=N1)C(C)=O | C19H16N8O2
reactant | pyrrolidine | 643 μmol, 53 μL | N1CCCC1 | C4H9N
reactant | sodium borohydride | 771 μmol, 29 mg | [BH4-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | titanium isopropoxide | 643 μmol, 183 mg | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | 2-N-Methyl-2-N-phenyl-6-(5-{5-[1-(pyrrolidin-1-yl)ethyl]pyridin-2-yl}-1,2,4-oxadiazol-3-yl)-1,3,5-triazine-2,4-diamine | 13 mg, 12% | CN(C1=NC(=NC(=N1)N)C1=NOC(=N1)C1=NC=C(C=C1)C(C)N1CCCC1)C1=CC=CC=C1 | C23H25N9O
